US04223137
1 g of 5-(1-hydroxy-2-benzylaminobutyl)-8-hydroxycarbostyril hydrochloride was suspended in 20 ml of methanol, and sodium methylate prepared from 135 mg of sodium metal and 2.8 ml of absolute methanol was added to the suspension. The mixture was then concentrated to dryness, and the resulting residue was dissolved in 10 ml of dimethylformamide. 490 mg of p-chlorobenzoyl chloride was then added dropwise to the mixture while cooling with ice-water. The mixture was then stirred for 1 hour, and water was added to the mixture. The mixture was then extracted with chloroform, and chloroform was removed by distillation. Diethyl ether was added to the residue to crystallize the product, and the crystals were separated by filtration, washed with diethyl ether and recrystallized from a mixture of chloroform and diethyl ether to obtain 110 mg of 8-(p-chlorobenzoyloxy)-5-(1-hydroxy-2-benzylaminobutyl)carbostyril having a melting point of 125°-126° C.

reactant | 5-(1-hydroxy-2-benzylaminobutyl)-8-hydroxycarbostyril hydrochloride | 1 g | Cl.OC(C(CC)NCC1=CC=CC=C1)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 135 mg | [Na] | Na
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 2.8 ml | CO | CH4O
product | 8-(p-chlorobenzoyloxy)-5-(1-hydroxy-2-benzylaminobutyl)carbostyril | 110 mg | ClC1=CC=C(C(=O)OC=2C=CC(=C3C=CC(NC23)=O)C(C(CC)NCC2=CC=CC=C2)O)C=C1 | C27H25ClN2O4
